US06444685B1
1-(4-{4-[2-Hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonyl)-pyrrolidine-2-carboxylic Acid Isopropyl Ester
The title compound was prepared from 4-((2S)-3-Amino-2-hydroxy-propoxy)-1,3-dihydro-benzoimidazol-2-one and Reference Example 14, 1-[4-(4-oxo-piperidin-1-yl)-benzenesulfonyl]-pyrrolidine-2-carboxylic acid isopropyl ester, according to the procedure of Example 1 as an off-white solid; mp 74-83° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.10-1.20 (m, 6H), 1.20-1.90 (m, 8H), 2.60-3.40 (m, 6H), 3.80-4.10 (m, 6H), 4.85-4.95 (m, 1H), 6.65 (d, 1H), 6.75 (d, 1H), 6.75 (d, 1H), 6.84 (t, 2H), 7.00 (d, 2H), 7.57 (d, 2H), 10.57 (br s, 1H), 10.70 (br s, 1H); MS (ES) m/z: 602.1 (MH+); HRMS Calcd. for C29H40N5O7S (MH+): 602.2634. Found: 602.2642.

reactant | 4-((2S)-3-Amino-2-hydroxy-propoxy)-1,3-dihydro-benzoimidazol-2-one | NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O | C10H13N3O3
reactant | 1-[4-(4-oxo-piperidin-1-yl)-benzenesulfonyl]-pyrrolidine-2-carboxylic acid isopropyl ester | C(C)(C)OC(=O)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C19H26N2O5S
product | 1-(4-{4-[2-Hydroxy-3-(2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzenesulfonyl)-pyrrolidine-2-carboxylic Acid Isopropyl Ester | C(C)(C)OC(=O)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NCC(COC1=CC=CC=2NC(NC21)=O)O | C29H39N5O7S
